US04503073
5-Methyl-7-[4-(methylthio)benzoyl]-indolin-2-one
A solution of 18.8 g (0.06 mole) of 2-amino-5-methyl-3-[4-(methylthio)benzoyl]phenylacetamide in 1700 ml of absolute ethanol with 16.6 ml (0.2 mol) of concentrated hydrochloric acid was heated at reflux for 45 min. The mixture was diluted with 50 ml of water and cooled. The precipitate was collected and recrystallized from 60% aqueous ethanol to give 11.0 g (62%) of the titled compound as tan crystals, m.p. 176.0°-177.5° C.

reactant | 2-amino-5-methyl-3-[4-(methylthio)benzoyl]phenylacetamide | 0.06 mole, 18.8 g | NC1=C(C=C(C=C1C(C1=CC=C(C=C1)SC)=O)C)CC(=O)N | C17H18N2O2S
reactant | hydrochloric acid | 0.2 mol, 16.6 ml | Cl | ClH
solvent | ethanol | 1700 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 5-Methyl-7-[4-(methylthio)benzoyl]-indolin-2-one | 11.0 g, 62% | CC=1C=C2CC(NC2=C(C1)C(C1=CC=C(C=C1)SC)=O)=O | C17H15NO2S
